US06696449B2
Part A: A solution of N-(tert-butyloxycarbonyl)-4-piperidinol (5.00 g, 2.48 mmol), 4-fluorobenzo-trifluoride (3.46 mL, 2.73 mmol), and cesium carbonate (12.1 g, 3.72 mmol) in DMF (60 mL) was heated at 120° C. under N2 for 2 days. The mixture was concentrated, diluted with H2O, and extracted with ethyl acetate. The organic layer was washed with H2O and brine, dried with MgSO4, and concentrated in vacuo. Chromatography (on silica, ethyl acetate/hexane) provided the BOC-aminoether as a white solid (6.97 g, 81%); Anal. calculated. for C17H22NO3F3: C, 59.12; H, 6.42; N, 4.06. Found: C, 59.29; H, 6.47; N, 3.99.

reactant | N-(tert-butyloxycarbonyl)-4-piperidinol | 2.48 mmol, 5.00 g | C(C)(C)(C)OC(=O)N1CCC(CC1)O | C10H19NO3
reactant | cesium carbonate | 3.72 mmol, 12.1 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | DMF | 60 mL | CN(C)C=O | C3H7NO
catalyst | 4-fluorobenzo-trifluoride | 2.73 mmol, 3.46 mL | FC1=CC=C(C=C1)C(F)(F)F | C7H4F4
product | BOC-aminoether | 6.97 g, 81% | C(=O)(OC(C)(C)C)ON | C5H11NO3
